US09079919B2
(R)—N-(2′-Amino-5′,5′-difluoro-2,2-dimethyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-6-yl)-5-chloropicolinamide
The condensation of (R)-5′,5′-difluoro-2,2-dimethyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-2′,6-diamine (intermediate B7.3) and 5-chloropicolinic acid yielded the title compound (85% yield) as a white solid. MS (ISP): m/z=437.1 [M+H]+.

reactant | (R)-5′,5′-difluoro-2,2-dimethyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-2′,6-diamine | FC1([C@@]2(N=C(OC1)N)CC(OC1=CC=C(C=C12)N)(C)C)F | C14H17F2N3O2
reactant | 5-chloropicolinic acid | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
product | (R)—N-(2′-Amino-5′,5′-difluoro-2,2-dimethyl-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazine]-6-yl)-5-chloropicolinamide | 85% yield | NC=1OCC([C@@]2(N1)CC(OC1=CC=C(C=C12)NC(C1=NC=C(C=C1)Cl)=O)(C)C)(F)F | C20H19ClF2N4O3
